US05623072
3-Bromo-4-methoxy-6-[3-(trifluoromethyl)phenyl]pyridazine (1.0 g, 0.003 mole, Compound No. 65), tetramethyltin (1.28 g, 0.0072 mole) and trans-benzyl(chloro)bis-(triphenylphosphine)palladium(II) (20 mg) were heated to 100° C. in DMF under N2 for 18 h. The reaction was then cooled and partitioned between aqueous KF solution and ethyl acetate. The KF solution was extracted with additional ethyl acetate. The organic layers were washed with brine, dried (MgSO4), filtered through silica gel and then evaporated in vacuo. The crude oil was then chromatographed on a Prep-500 to give 4-methoxy-3-methyl-6-[3-(trifluoromethyl)phenyl]pyridazine (0.51 g, 63% yield, Compound No. 66) as a light yellow solid.

reactant | 3-Bromo-4-methoxy-6-[3-(trifluoromethyl)phenyl]pyridazine | BrC=1N=NC(=CC1OC)C1=CC(=CC=C1)C(F)(F)F | C12H8BrF3N2O
reactant | tetramethyltin | 0.0072 mole, 1.28 g | C[Sn](C)(C)C
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | trans-benzyl(chloro)bis-(triphenylphosphine)palladium(II) | 20 mg | [CH2-]C1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd+]
product | 4-methoxy-3-methyl-6-[3-(trifluoromethyl)phenyl]pyridazine | 0.51 g, 63% yield | COC1=C(N=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C | C13H11F3N2O
